US08633212B2
6-Bromo-1′,3′-dihydro-2,2′-spirobi[inden]-1(3H)-one (314 mg, 1 mmol), 3-cyanophenylboronic acid (294 g, 2 mmol) in [1,4]-dioxane (12 mL), Cs2CO3 (2 N, 3.2 mL), then Pd(PPh3)2Cl2 (5 mg, 0.01 mmol) was added under Ar2, the mixture was stirred at 100° C. for 5 minutes under microwave. The reaction mixture was concentrated in vacuo to give the residue, which was purified by TLC to give 3-(1-oxo-1,1′,3,3′-tetrahydro-2,2′-spirobi[indene]-6-yl)benzonitrile (34 mg, 10%). 1H-NMR (CDCl3): 3.00 (d, 2H), 3.33 (s, 2H), 3.62 (d, 2H), 7.31 (m, 3H), 7.67 (m, 2H), 7.78 (m, 1H), 7.96 (m, 2H), 8.02 (m, 1H), 8.11 (m, 1H).

reactant | 6-Bromo-1′,3′-dihydro-2,2′-spirobi[inden]-1(3H)-one | 1 mmol, 314 mg | BrC1=CC=C2CC3(C(C2=C1)=O)CC1=CC=CC=C1C3 | C17H13BrO
reactant | 3-cyanophenylboronic acid | 2 mmol, 294 g | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
solvent | [1,4]-dioxane | 12 mL | O1CCOCC1 | C4H8O2
solvent | Cs2CO3 | 2 N, 3.2 mL | C(=O)([O-])[O-].[Cs+].[Cs+]
catalyst | Pd(PPh3)2Cl2 | 0.01 mmol, 5 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-(1-oxo-1,1′,3,3′-tetrahydro-2,2′-spirobi[indene]-6-yl)benzonitrile | 34 mg, 10% | O=C1C2(CC3=CC=C(C=C13)C=1C=C(C#N)C=CC1)CC1=CC=CC=C1C2 | C24H17NO
